US06596900B2
(1S,6S,7R)-Spiro[bicyclo[4.2.0]octane-7,3′-pyrrolidin]-5′-one
Ethyl [(1RS,6RS,7SR)-7-(nitromethyl)bicyclo[4.2.0]oct-7-yl]acetate (preparation 21) (4.70 g, 18.4 mmol) was shaken in methanol (150 ml) at 30° C. over Raney Nickel catalyst under an atmosphere of hydrogen gas at 483 kPa (70 p.s.i.). After 4 hrs the catalyst was removed by filtration through celite and the solvent removed under reduced pressure to give 3.23 g of the title compound as a clear oil which solidified on standing.

reactant | Ethyl [(1RS,6RS,7SR)-7-(nitromethyl)bicyclo[4.2.0]oct-7-yl]acetate | 18.4 mmol, 4.70 g | [N+](=O)([O-])CC1(C2CCCCC2C1)CC(=O)OCC | C13H21NO4
solvent | methanol | 150 ml | CO | CH4O
catalyst | Raney Nickel | [Ni] | Ni
product | (1S,6S,7R)-Spiro[bicyclo[4.2.0]octane-7,3′-pyrrolidin]-5′-one | 3.23 g | N1C[C@]2(CC1=O)[C@H]1CCCC[C@H]1C2 | C11H17NO
